US05114966
2-(RS)-(2-aminoethyl)-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane hydrochloride
The de-benzylization of the 2-(RS)-(2-aminoethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane hydrochloride is done with the same process as described in example 15. A white solid is obtained. m.p. 198°-199° C.; IR (KBr): 3410 (νOH), 3059 cm-1 (νNH3 +); 1H-NMR (D2O): δ3.4-2.7 (4H,m), 2.3-2.1 (2H,m), 2.1 (6H,s), 2.0 (3H,s).

reactant | 2-(RS)-(2-aminoethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane hydrochloride | Cl.NCCC1OC2=C(C1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C
reactant | KBr | [K+].[Br-]
product | 2-(RS)-(2-aminoethyl)-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane hydrochloride | Cl.NCCC1OC2=C(C1)C(=C(C(=C2C)C)O)C | InChI=1S/C13H19NO2.ClH/c1-7-8(2)13-11(9(3)12(7)15)6-10(16-13)4-5-14;/h10,15H,4-6,14H2,1-3H3;1H
